US06025390
1,2,2,6,6-Pentamethyl-4-piperidone oxide.
A suspension of 1,2,2,6,6-pentamethyl-4-piperidone hydroiodide (3 g, 10.0 mmol) and hydroxylamine hydrochloride (980 mg, 14 mmol) in water (6 ml) was stirred at RT for 15 min. Solid NaOH was added until basic pH and thickening of the suspension. Water (3 ml) was added and stirring at RT was continued overnight. The suspension was filtered and the solid washed with water (few ml) and dried. The solid was then dissolved in Et2O, the solution was dried (MgSO4) and concentrated to give after drying pure title compound (1.55 g, 8.41 mmol, yield 83.3%) as white crystals.

reactant | 1,2,2,6,6-pentamethyl-4-piperidone hydroiodide | 10.0 mmol, 3 g | I.CN1C(CC(CC1(C)C)=O)(C)C
reactant | hydroxylamine hydrochloride | 14 mmol, 980 mg | Cl.NO
reactant | NaOH | [OH-].[Na+]
solvent | water | 6 ml | O | H2O
solvent | Water | 3 ml | O | H2O
product | 1,2,2,6,6-Pentamethyl-4-piperidone oxide | 8.41 mmol, 1.55 g, yield 83.3% | C[N+]1(C(CC(CC1(C)C)=O)(C)C)[O-] | C10H19NO2
